US06716851B2
4-(3-Hydroxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol), 3-aminophenol (32 mg, 0.290 mmol) similar to Example 97 and isolated as a yellow solid (37 mg, 52%). 1H NMR (DMSO-d6): 10.51 (s, 1H), 8.98 (d, J=6.0 Hz, 2H), 8.54 (d, J=6.6 Hz, 2H), 7.32-7.21 (m, 5H), 6.61-6.57 (m, 1H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 3-aminophenol | 0.290 mmol, 32 mg | NC=1C=C(C=CC1)O | C6H7NO
product | 4-(3-Hydroxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.OC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=CC1 | InChI=1S/C16H11F3N4O.ClH/c17-16(18,19)13-9-14(21-11-2-1-3-12(24)8-11)23-15(22-13)10-4-6-20-7-5-10;/h1-9,24H,(H,21,22,23);1H
